US09024027B2
To a solution of methyl 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetate (1.0 g, 3.54 mmol) (prepared in an analogous manner as described Example 15, Scheme 15, Steps 1, 2, 3) in CH3CN (30 ml), K2CO3 (0.734 g, 5.31 mmol) and 4-(2-chloroethyl)-morpholine hydrochloride (0.989 g, 5.31 mmol) were added, and the resulting mixture heated to reflux for 3 hours. The insoluble inorganic salts were filtered off and the filtrate was evaporated to dryness affording methyl 2-(4-(N-(2-morpholinoethyl)-methylsulfonamido)-1H-indol-1-yl)acetate (1.08 g, 2.73 mmol, 77% yield, MS/ESI+ 395.9 [MH]+) which was used without any additional purification.

reactant | methyl 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetate | 3.54 mmol, 1.0 g | CS(=O)(=O)NC1=C2C=CN(C2=CC=C1)CC(=O)OC | C12H14N2O4S
reactant | K2CO3 | 5.31 mmol, 0.734 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 5.31 mmol, 0.989 g | Cl.ClCCN1CCOCC1
solvent | CH3CN | 30 ml | CC#N | C2H3N
product | methyl 2-(4-(N-(2-morpholinoethyl)-methylsulfonamido)-1H-indol-1-yl)acetate | 2.73 mmol, 1.08 g, 77% yield | O1CCN(CC1)CCN(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)OC | C18H25N3O5S
